US07534894B2
Step 6: N-benzyl-N-{[3′-bromo-4′-(1H-tetraazol-5-ylmethoxy)-1,1′-biphenyl-4-yl]methyl}-2-butyl-1-benzofuran-3-carboxamide.
A mixture of N-benzyl-N-{[3′-bromo-4′-(cyanomethoxy)-1,1′-biphenyl-4-yl]methyl}-2-butyl-1-benzofuran-3-carboxamide (800 mg, 1.3 mmol), prepared in the previous step, sodium azide (320 mg, 4.9 mmol) and ammonium chloride (264 mg, 4.9 mmol) in 40 mL of DMF was stirred under nitrogen at 100° C. for 3.5 h. By TLC some starting material remained. An additional 320 mg (4.9 mmol) of sodium azide and 264 mg (4.9 mmol) of ammonium chloride were added and the reaction was stirred at 100° C. for 4 h. The reaction was diluted with water, made basic by the addition of 1 N NaOH and partitioned with ethyl acetate. The organic layer was separated and the aqueous layer extracted multiple times with ethyl acetate. By TLC the product was in the ethyl acetate layer. The ethyl acetate solution was concentrated. The residue was dissolved in methylene chloride and acidified with 1 N HCl. The organic layer was separated, extracted three times with water, dried (MgSO4) and the solvent removed under reduced pressure to give the title compound (370 mg, 43%) as a white solid, MS (ESI) m/z 650 [M+H]+. Elemental Analysis for C35H32BrN5O3.0.34 H2O: Calc'd: C, 64.01; H, 5.02; N, 10.66; Found: C, 62.18; H, 5.32; N:9.50

reactant | N-benzyl-N-{[3′-bromo-4′-(cyanomethoxy)-1,1′-biphenyl-4-yl]methyl}-2-butyl-1-benzofuran-3-carboxamide | 1.3 mmol, 800 mg | C(C1=CC=CC=C1)N(C(=O)C1=C(OC2=C1C=CC=C2)CCCC)CC2=CC=C(C=C2)C2=CC(=C(C=C2)OCC#N)Br | C35H31BrN2O3
reactant | sodium azide | 4.9 mmol, 320 mg | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 4.9 mmol, 264 mg | [Cl-].[NH4+]
reactant | sodium azide | 4.9 mmol, 320 mg | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 4.9 mmol, 264 mg | [Cl-].[NH4+]
reactant | NaOH | 1 N | [OH-].[Na+]
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | N-benzyl-N-{[3′-bromo-4′-(1H-tetraazol-5-ylmethoxy)-1,1′-biphenyl-4-yl]methyl}-2-butyl-1-benzofuran-3-carboxamide | 370 mg, 43% | C(C1=CC=CC=C1)N(C(=O)C1=C(OC2=C1C=CC=C2)CCCC)CC2=CC=C(C=C2)C2=CC(=C(C=C2)OCC2=NN=NN2)Br | C35H32BrN5O3
